US05352689
12-Trichloroethoxycarbonyloxydodecanoic acid
The whole of this benzhydryl 12-hydroxydodecanoate was dissolved in 400 ml of anhydrous ethyl acetate, and 13.7 ml of pyridine were added to the resulting solution, whilst ice-cooling, after which 3.48 g of trichloroethoxycarbonyl chloride dissolved in 10 ml of ethyl acetate were added dropwise over about 15 minutes. Insoluble salts were precipitated, after which the temperature of the mixture was allowed to return to room temperature, and the mixture was then stirred for a further 2 hours. The reaction mixture was then washed with 200 ml of 0.5N aqueous hydrochloric acid, after which it was washed with 100 ml each of a saturated aqueous solution of sodium chloride and of a 5% w/v aqueous solution of sodium bicarbonate. The organic layer was then dried over anhydrous magnesium sulfate, after which the solvent was removed by evaporation under reduced pressure. The residue thus obtained was purified by silica gel column chromatography using cyclohexane containing 20% by volume ethyl acetate as eluent, to afford a colorless and transparent viscous oil. The whole of this oil was dissolved in 5 ml of anisole, and 20 ml of trifluoroacetic acid was added to the resulting solution, whilst ice-cooling. The mixture was then left to stand for 1 hour. At the end of this time, the solvent was removed by evaporation under reduced pressure. This evaporating operation was repeated three times by adding 30 ml of toluene and dissolving the residue in 100 ml of a mixture of ethyl acetate and water. After this, 100 ml of a saturated aqueous solution of sodium bicarbonate was added to the organic layer, which emulsified the resulting mixture. and then the pH of the mixture was adjusted to a value of about 1 by the addition of concentrated hydrochloric acid. After the organic layer had been separated, it was washed with 100 ml of a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then removed by evaporation under reduced pressure, to afford an oily residue. The residue was purified by silica gel column chromatography using a 2:1 by volume mixture of cyclohexane and ethyl acetate as eluent and then recrystallized from hexane to afford 3.96 g of the title compound as white plate-like crystals, melting at 44.6° to 46.4° C.

reactant | benzhydryl 12-hydroxydodecanoate | OCCCCCCCCCCCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H34O3
reactant | pyridine | 13.7 ml | N1=CC=CC=C1 | C5H5N
reactant | trichloroethoxycarbonyl chloride | 3.48 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 12-Trichloroethoxycarbonyloxydodecanoic acid | 3.96 g | ClC(COC(=O)OCCCCCCCCCCCC(=O)O)(Cl)Cl | C15H25Cl3O5
